US06750252B2
Ethyl 3-(3-amino-4-hydroxyphenyl)-2-ethoxypropanoate
Ethyl (2Z)-3-[4-(benzyloxy)-3-nitrophenyl]-2-ethoxyacrylate (0.83 g, 1.57 mmole) was hydrogenated in ethylacetate (10 ml) at atmospheric pressure using Pd/C (5%) as a catalyst. The mixture was filtered through celite and evaporated in vacuo. Purification of the crude product with preparative HPLC (Kromasil C8, 7 μm, 50×250 mm) using actonitrile(0-60%) in ammonium acetate buffer (pH 7) as mobile phase gave 0.052 g (13% yield) of the desired product.

reactant | Ethyl (2Z)-3-[4-(benzyloxy)-3-nitrophenyl]-2-ethoxyacrylate | 1.57 mmole, 0.83 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)\C=C(\C(=O)OCC)/OCC)[N+](=O)[O-] | C20H21NO6
solvent | ethylacetate | 10 ml | C(C)OC(C)=O | C4H8O2
catalyst | Pd/C | [Pd] | Pd
product | Ethyl 3-(3-amino-4-hydroxyphenyl)-2-ethoxypropanoate | 0.052 g, 13% yield | NC=1C=C(C=CC1O)CC(C(=O)OCC)OCC | C13H19NO4
